US06429221B1
d) 1-Phthalimido-1-(3′,4′-dimethoxyphenyl)-2-propylpentane
To a stirred solution of 1-(3′,4′-dimethoxyphenyl)-2-propylpentylamine (0.40 grams, 1.60 mmol) and sodium carbonate (0.18 grams, 1.72 mmol) in a mixture of water (5 milliliters) and acetonitrile (10 milliliters) was added N-carbethoxyphthalimide (0.35 grams, 1.60 mmol). The resulting solution was stirred for 2.5 hours at room temperature, the acetonitrile was evaporated and a two phase mixture resulted. The organic phase was extracted into methylene chloride, dried over magnesium sulfate and concentrated in vacuo to afford 0.6 grams of crude product as an oil. The crude product was purified by flash chromatography (silica gel, 25% ethyl acetate/hexane) to afford 0.25 grams of the product as an oil which after a few days solidified. The white solid was dried in vacuo (60° C., <1 mm) to afford 0.24 grams of pure product as a white solid: mp 100-101° C.; 1H NMR (CDCl3) δ7.84-7.59(m, 4H), 7.27-7.02(m, 2H), 6.81-6.68(m, 1H), 5.01(d, J=12 Hz, 1H), 3.89(s, 3H), 3.84(s, 3H), 3.17-2.98(m, 1H), 1.49-0.66(m, 14H). 13C NMR (CDCl3) δ168.5, 148.7, 148.4, 133.8, 131.9, 131.8, 123.1, 121.6, 112.0, 110.7, 58.9, 55.9, 55.7, 36.2, 31.9, 31.8, 18.7, 18.1, 14.6, 14.3.

reactant | 1-(3′,4′-dimethoxyphenyl)-2-propylpentylamine | 1.60 mmol, 0.40 grams | COC=1C=C(C=CC1OC)C(C(CCC)CCC)N | C16H27NO2
reactant | sodium carbonate | 1.72 mmol, 0.18 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-carbethoxyphthalimide | 1.60 mmol, 0.35 grams | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | water | 5 milliliters | O | H2O
solvent | acetonitrile | 10 milliliters | C(C)#N | C2H3N
product | 1-Phthalimido-1-(3′,4′-dimethoxyphenyl)-2-propylpentane | 0.25 grams | C1(C=2C(C(N1C(C(CCC)CCC)C1=CC(=C(C=C1)OC)OC)=O)=CC=CC2)=O | C24H29NO4
